US06551682B1
(2) Production of 1-(3-chloro-5-(trifluoro-methyl)-2-pyridylazo)-2-naphthol (No. L26)
A reaction flask was loaded with 3-chloro-5-(trifluoromethyl)-2-aminopyridine (4.0 g), ethanol (13 ml), and sodium ethoxide (1.4 g), followed by dropwise addition of isopentyl nitrite (2.9 g) to the flask in 30 minutes with stirring. After the dropwise addition was ended, heating was started and the mixture was stirred at 75 to 80° C. for four hours. The heating was stopped, and the reaction mixture was cooled to room temperature, followed by dropwise addition of 2-naphthol (1.7 g) dissolved in ethanol (5 ml) to the mixture in one hour. The resultant mixture was stirred at room temperature for one hour, heated, and stirred at 75 to 80° C. for additional one hour, followed by stopping the heating and then leaving the mixture to stand overnight. The reaction mixture was filtrated to remove insoluble components, and the filtrate was condensed by an evaporator. The residue was dissolved in ethyl acetate (100 ml) and, after being successively washed with an aqueous solution of sodium hydroxide and water, the ethyl acetate layer was condensed by an evaporator, followed by addition of methanol to the residue for crystallization. The resultant was filtrated and the crystals were dried to give intended red orange crystals (1.9 g).

reactant | 3-chloro-5-(trifluoromethyl)-2-aminopyridine | 4.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)N | C6H4ClF3N2
reactant | sodium ethoxide | 1.4 g | [O-]CC.[Na+]
reactant | isopentyl nitrite | 2.9 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-naphthol | 1.7 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | 1-(3-chloro-5-(trifluoro-methyl)-2-pyridylazo)-2-naphthol | ClC=1C(=NC=C(C1)C(F)(F)F)N=NC1=C(C=CC2=CC=CC=C12)O | C16H9ClF3N3O
